US08431563B2
A 100-mL round-bottomed flask was charged 2-(4-(4-((3-fluoro-4-nitrophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (350 mg, 0.66 mmol) and EtOH (40 mL). The reaction was placed under an atmosphere of argon. 10% Pd/C (70.1 mg, 0.66 mmol) was added and the reaction was stirred under a balloon atmosphere of H2 for 12 h. The reaction was carefully filtered through a pad of Celite, rinsing with EtOH. The crude material was concentrated onto silica gel and purified via column chromatography (40 g silica gel, 0 to 10% MeOH in CH2Cl2) to give 2-(4-(4-((4-amino-3-fluorophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (60 mg). 1H NMR (400 MHz, CD3OD) δ=7.54 (d, J=8.6 Hz, 2H), 7.40-7.31 (m, 2H), 7.01-6.95 (m, 2H), 6.94-6.86 (m, 1H), 3.31-3.26 (m, 4H), 3.14-3.00 (m, 4H). m/z (ESI, +ve ion) 502.0 (M+H)+. GK-GKRP IC50 (Binding)=0.999 μM; GK-GKRP EC50 (LC MS/MS-2)=0.642 μM.

reactant | 2-(4-(4-((3-fluoro-4-nitrophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.66 mmol, 350 mg | FC=1C=C(C=CC1[N+](=O)[O-])S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C19H16F7N3O5S
catalyst | Pd/C | 0.66 mmol, 70.1 mg | [Pd] | Pd
solvent | EtOH | 40 mL | CCO | C2H6O
product | 2-(4-(4-((4-amino-3-fluorophenyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 60 mg | NC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C19H18F7N3O3S
